US07659279B2
5-{[(2R)-1-Acetylpyrrolidin-2-yl]methoxy}-N-(3-chloro-4-fluorophenyl)-7-methoxyquinazolin-4-amine
N,N-Diisopropylethylamine (52 μl) and acetyl chloride (21 μl) were added sequentially, each in one portion, to a stirred mixture of N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2R)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine (100 mg) in DCM (2 ml) at room temperature. The reaction mixture was stirred for 1 hour and then diluted with DCM (10 ml) and washed with saturated aqueous sodium hydrogen carbonate. The organic layer was dried (MgSO4) and concentrated in vacuo to leave a yellow solid, which was purified by column chromatography using 24% methanol in DCM as eluent, followed by trituration with ether to give the title compound as a white solid (92 mg, 83%); NMR Spectrum (DMSO-d6) 9.90 (br s, 1H), 8.40 (s, 1H), 8.15 (m, 1H), 7.65 (m, 1H), 7.40 (m, 1H), 6.80 (m, 2H), 4.60 (m, 1H), 4.50 (m, 1H), 4.25 (m, 1H), 3.95 (s, 3H), 3.50 (m, 1H), 3.30 (s, 3H), 2.0-1.85 (m, 5H); Mass spectrum MH+ 445.

reactant | N,N-Diisopropylethylamine | 52 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 21 μl | C(C)(=O)Cl | C2H3ClO
reactant | N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2R)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine | 100 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC[C@@H]1NCCC1)OC | C20H20ClFN4O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-{[(2R)-1-Acetylpyrrolidin-2-yl]methoxy}-N-(3-chloro-4-fluorophenyl)-7-methoxyquinazolin-4-amine | 92 mg, 83% | C(C)(=O)N1[C@H](CCC1)COC1=C2C(=NC=NC2=CC(=C1)OC)NC1=CC(=C(C=C1)F)Cl | C22H22ClFN4O3
